*** Spice netlist generated by cell2spice.pl from cell file NAND2X1.cell ***

.subckt NAND2X1 vdd gnd B A Y
M0 Y A vdd vdd pmos w=0.840u l=0.150u
M1 Y B vdd vdd pmos w=0.840u l=0.150u
M2 1 A gnd gnd nmos w=0.420u l=0.150u
M3 Y B 1 gnd nmos w=0.420u l=0.150u
.ends NAND2X1

